US04684724
In 12 ml of tetrahydrofuran was dissolved 0.30 g of (3S, 4S)-3-amino-4-cyano-2-azetidinone p-toluenesulfonate. To the solution were added, under ice-cooling, 0.12 g of triethylamine and, subsequently 0.60 g of 2-(2-chloroacetamidothiazol-4-yl)-2-(1-p-nitrobenzyloxycarbonyl-1-methylethoxyimino)acetyl chloride hydrochloride. The mixture was stirred at room temperature for 40 minutes, followed by concentration under reduced pressure. The residue was purified on a silicagel column [ethyl acetate-chloroformmethanol (3:3:1)] to yield 0.27 g of (3S, 4S)-3-[2-(2-chloroacetamidothiazol-4-yl)-2-(1-p-nitrobenzyloxycarbonyl-1-methylethoxyimino)acetamido]-4-cyano-2-azetidinone.

reactant | (3S, 4S)-3-amino-4-cyano-2-azetidinone p-toluenesulfonate | 0.30 g | C1(=CC=C(C=C1)S(=O)(=O)O)C.N[C@@H]1C(N[C@@H]1C#N)=O
reactant | triethylamine | 0.12 g | C(C)N(CC)CC | C6H15N
reactant | 2-(2-chloroacetamidothiazol-4-yl)-2-(1-p-nitrobenzyloxycarbonyl-1-methylethoxyimino)acetyl chloride hydrochloride | 0.60 g | Cl.ClCC(=O)NC=1SC=C(N1)C(C(=O)Cl)=NOC(C)(C)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-]
solvent | tetrahydrofuran | 12 ml | O1CCCC1 | C4H8O
product | (3S, 4S)-3-[2-(2-chloroacetamidothiazol-4-yl)-2-(1-p-nitrobenzyloxycarbonyl-1-methylethoxyimino)acetamido]-4-cyano-2-azetidinone | 0.27 g | ClCC(=O)NC=1SC=C(N1)C(C(=O)N[C@@H]1C(N[C@@H]1C#N)=O)=NOC(C)(C)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C22H20ClN7O8S
